US20010006969A1
2-Allylamino-4-benzylamino-7-methylthieno[3,2-d] pyrimidine
In 2.28 g (40.0 mmol) of allylamine was dissolved 250 mg (0.9 mmol) of 4-benzylamino-2-chloro-7-methylthieno[ 3,2-d]pyrimidine, and the resulting solution was heated in a sealed tube at 140° C. for 24 hours. After the reaction mixture was cooled, 100 ml of water was added thereto, followed by extraction with ethyl acetate (20 ml×3). The organic layer was washed with 20 ml of water and dried over anhydrous sodium sulfate, and then the solvent was distilled off. The residue was purified by silica gel column chromatography (eluent: ethyl acetate-hexane=¼) to give 217 mg (yield: 81.3%) of the title compound.

reactant | allylamine | 40.0 mmol, 2.28 g | C(C=C)N | C3H7N
reactant | 4-benzylamino-2-chloro-7-methylthieno[ 3,2-d]pyrimidine | 0.9 mmol, 250 mg | C(C1=CC=CC=C1)NC=1C2=C(N=C(N1)Cl)C(=CS2)C | C14H12ClN3S
solvent | water | 100 ml | O | H2O
product | 2-Allylamino-4-benzylamino-7-methylthieno[3,2-d] pyrimidine | 217 mg, yield: 81.3% | C(C=C)NC=1N=C(C2=C(N1)C(=CS2)C)NCC2=CC=CC=C2 | C17H18N4S
